US03994890
By the procedure similar to that described in Example 1, 3-phenyl-5-methylindazole (4.17 g) and dimethylaminoethyl chloride hydrochloride (4.32 g) were treated to obtain 4.0 g of 1-dimethylaminoethyl-3-phenyl-5-methylindazole hydrochloride (m.p. 191°-192° C).

reactant | 3-phenyl-5-methylindazole | 4.17 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)C | C14H12N2
reactant | dimethylaminoethyl chloride hydrochloride | 4.32 g | Cl.CN(C)CCCl
product | 1-dimethylaminoethyl-3-phenyl-5-methylindazole hydrochloride | 4.0 g | Cl.CN(C(C)C1=C2C(=NNC2=CC=C1C)C1=CC=CC=C1)C | InChI=1S/C18H21N3.ClH/c1-12-10-11-15-17(16(12)13(2)21(3)4)18(20-19-15)14-8-6-5-7-9-14;/h5-11,13H,1-4H3,(H,19,20);1H
